US04983606
Working as described in Example 3 but replacing 2-[2-chloroethyl]-6,7-dimethoxy-1(2H)-phthalazinone with an equivalent amount of 2-(2-chloroethyl)-7-nitro-1(2H)-phthalazinone and replacing N-phenyl piperazine with an equivalent amount of 4-(4-fluorobenzoyl)-piperidine, 2-{2-[4-(4-fluorobenzoyl)-piperidin-1-yl]-ethyl}-7-nitro-1-(2H)-phthalazinone hydrochloride is obtained (m.p. 280°-285° C., from ethyl alcohol).

reactant | 2-[2-chloroethyl]-6,7-dimethoxy-1(2H)-phthalazinone | ClCCN1C(C2=CC(=C(C=C2C=N1)OC)OC)=O | C12H13ClN2O3
reactant | 2-(2-chloroethyl)-7-nitro-1(2H)-phthalazinone | ClCCN1C(C2=CC(=CC=C2C=N1)[N+](=O)[O-])=O | C10H8ClN3O3
reactant | N-phenyl piperazine | C1(=CC=CC=C1)N1CCNCC1 | C10H14N2
reactant | 4-(4-fluorobenzoyl)-piperidine | FC1=CC=C(C(=O)C2CCNCC2)C=C1 | C12H14FNO
solvent | ethyl alcohol | C(C)O | C2H6O
product | 2-{2-[4-(4-fluorobenzoyl)-piperidin-1-yl]-ethyl}-7-nitro-1-(2H)-phthalazinone hydrochloride | Cl.FC1=CC=C(C(=O)C2CCN(CC2)CCN2C(C3=CC(=CC=C3C=N2)[N+](=O)[O-])=O)C=C1 | InChI=1S/C22H21FN4O4.ClH/c23-18-4-1-15(2-5-18)21(28)16-7-9-25(10-8-16)11-12-26-22(29)20-13-19(27(30)31)6-3-17(20)14-24-26;/h1-6,13-14,16H,7-12H2;1H
